US04401765
Preparation of Gentamicin Particle Reagent and its Use
50 mg of gentamicin sulfate in 5 mL of water is neutralized by adding barium hydroxide until no further precipitate is formed. The precipitate, barium sulfate, is removed by centrifugation. The supernatant is added to a mixture of 5 mL of the polystyrene/polyglycidyl methacrylate polymer particle prepared in Example 4 and 5 mL of a 0.1% suspension of "Schercozoline" S (a substituted imidazoline from stearic acid, available from Scher Chemical Co.) at a pH of 8.5 adjusted with potassium hydroxide. The mixture is warmed to 75° C. for approximately 30 min, diluted with 200 mL of water, and deionized using a mixed bed ion exchange resin. 0.4 mL of the resulting particle reagent is added to 20 mL of 0.1% sodium dodecyl sulfate (SDS) followed by the addition of 0.2 mL of 0.020 M phosphate buffer (pH 7.43) containing 0.3 m NaCl and 0.1% SDS.

reactant | gentamicin sulfate | 50 mg | CC([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)N.CC([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)NC.C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H](CC[C@H](O3)CN)N)N)N)O.OS(=O)(=O)O
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium dodecyl sulfate | 20 mL | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | phosphate | 0.020 M, 0.2 mL, pH 7.43 | P(=O)([O-])([O-])[O-]
reactant | NaCl | [Na+].[Cl-]
solvent | water | 5 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | Gentamicin | C[C@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)NC | C21H43N5O7
